US05886044
Preparation of N-[2-hydroxy-3-fluoro-5-bromophenyl]-N'-[2-bromophenyl] urea
Preparation of N-[2-hydroxy-3-fluoro-5-bromophenyl]-N'-[2-bromophenyl] urea N-[2-hydroxy-3-fluoro-5-bromophenyl]-N'-[2-bromophenyl] urea was prepared from 2-amino-6-fluoro-4-bromophenol (254 mg, 2.00 mmol) according to the procedure in General Method B. The product was purified by precipitation from methylene chloride/hexane(1/20) and filtering. (500 mg, 77%). 1H NMR (CD3OD): δ 7.98 (s, 1H), 7.91 (d, 1H), 7.60 (d, 1H), 7.33 (t, 1H), 7.00 (t, 1H), 6.94 (d, 1H).

reactant | N-[2-hydroxy-3-fluoro-5-bromophenyl]-N'-[2-bromophenyl] urea N-[2-hydroxy-3-fluoro-5-bromophenyl]-N'-[2-bromophenyl] urea | OC1=C(C=C(C=C1F)Br)NC(=O)NC1=C(C=CC=C1)Br.OC1=C(C=C(C=C1F)Br)NC(=O)NC1=C(C=CC=C1)Br | 2C13H9Br2FN2O2
reactant | 2-amino-6-fluoro-4-bromophenol | 2.00 mmol, 254 mg | NC1=C(C(=CC(=C1)Br)F)O | C6H5BrFNO
product | N-[2-hydroxy-3-fluoro-5-bromophenyl]-N'-[2-bromophenyl] urea | OC1=C(C=C(C=C1F)Br)NC(=O)NC1=C(C=CC=C1)Br | C13H9Br2FN2O2
